US05663200
60c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid
A solution of 600 mg (1.22 mmol) of 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-[(2,3,4-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 20 ml of dimethoxyethane and 9.9 ml of water is treated, at RT, with 4.9 ml of a 1M solution of lithium hydroxide in water, and this reaction mixture is stirred for 2 h. It is then transferred to a separating funnel and diluted with 60 ml of sat. ammonium chloride solution and 5 ml of a 10% citric acid solution (both being cold); this mixture is then extracted with ethyl acetate and a little THF. The title compound, which is dried under HV and subjected to further processing without being purified, is obtained after washing the organic phase with (cold) saline and drying it over sodium sulfate. IR(CH2Cl2) inter alia: 3431, 1710, 1602, 1495, 1165 and 1100 cm-1. FAB-MS (M+H)+ =510. HPLC tRet =16.13 min (gradient II).

reactant | 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-[(2,3,4-trimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 1.22 mmol, 600 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C(=C(C=C1)OC)OC)OC | C27H41NO7
reactant | lithium hydroxide | [OH-].[Li+]
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | 9.9 ml | O | H2O
solvent | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-[(2,3,4-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C(=C(C=C1)OC)OC)OC)O)CC1CCCCC1 | C27H43NO8
